US04962096
Ethyl 3-(3-pyridyl)acrylate was reduced using lithium aluminum hydride to give 3-(3-pyridyl)-2-propen-1-ol. In 30 ml of acetone 710 mg of 3-(3-pyridyl)-2-propen-1-ol and 980 mg of methyl p-toluenesulfonate were heated under reflux for 22 hours. The reaction mixture was subjected by decantation to remove the solvent and then washed with acetone and ether. The residue was dried under reduced pressure to give 1.3 g of the desired compound as an orange-colored oil.

reactant | Ethyl 3-(3-pyridyl)acrylate | N1=CC(=CC=C1)C=CC(=O)OCC | C10H11NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3-(3-pyridyl)-2-propen-1-ol | N1=CC(=CC=C1)C=CCO | C8H9NO
